US07645789B2
To a solution of methyl-(4-nitro-phenyl)-amine (15.2 g, 0.1 mol) in AcOH (150 mL) and CHCl3 (50 mL) was added Br2 (16.0 g, 0.1 mol) dropwise at 5° C. The mixture was stirred at 10° C. for 1 h and then basified with sat. aq. NaHCO3. The resulting mixture was extracted with EtOAc (100 mL×3), and the combined organics were dried over anhydrous Na2SO4 and evaporated under vacuum to give (2-bromo-4-nitro-phenyl)-methyl-amine (2-bromo-4-nitro-phenyl)-methyl-amine (23.0 g, 99%), which was used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 8.37 (d, J=2.4 Hz, 1H), 8.13 (dd, J=2.4, 9.0 Hz, 1H), 6.58 (d, J=9.0 Hz, 1H), 5.17 (brs, 1H), 3.01 (d, J=5.4 Hz, 3H).

reactant | methyl-(4-nitro-phenyl)-amine | 0.1 mol, 15.2 g | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | Br2 | 0.1 mol, 16.0 g | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | AcOH | 150 mL | CC(=O)O | C2H4O2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | (2-bromo-4-nitro-phenyl)-methyl-amine (2-bromo-4-nitro-phenyl)-methyl-amine | 23.0 g, 99% | BrC1=C(C=CC(=C1)[N+](=O)[O-])NC.BrC1=C(C=CC(=C1)[N+](=O)[O-])NC | 2C7H7BrN2O2
